US07807709B2
B. (3S*,4S*)-Pyrrolidine-1,3,4-tricarboxylic acid 1-tert-butyl ester 3,4-diethyl ester
A mixture of (3S*,4S*)-1-benzyl-pyrrolidine-3,4-dicarboxylic acid diethyl ester (82.8 g, 271.14 mmol), di-tert-butylcarbonate (88.76 g, 406.71 mmol) and Pd/C 10% (8 g) in EtOH (1.5 L) is stirred under hydrogen atmosphere. The crude material is filtered over a pad of Celite and concentrated. The crude material is purified by flash chromatography on silica gel (eluent: CH2Cl2/acetone 100:0 to 95:5). TLC, Rf (CH2Cl2/acetone 95:5)=0.51. MS (LC-MS): 216.2 [M+H-Boc]+.

reactant | (3S*,4S*)-1-benzyl-pyrrolidine-3,4-dicarboxylic acid diethyl ester | 271.14 mmol, 82.8 g | C(C)OC(=O)[C@@H]1CN(C[C@H]1C(=O)OCC)CC1=CC=CC=C1 | C17H23NO4
reactant | di-tert-butylcarbonate | 406.71 mmol, 88.76 g | C(C)(C)(C)OC(OC(C)(C)C)=O | C9H18O3
solvent | EtOH | 1.5 L | CCO | C2H6O
catalyst | Pd/C | 8 g | [Pd] | Pd
product | (3S*,4S*)-Pyrrolidine-1,3,4-tricarboxylic acid 1-tert-butyl ester 3,4-diethyl ester | C(C)OC(=O)[C@@H]1CN(C[C@H]1C(=O)OCC)C(=O)OC(C)(C)C | C15H25NO6
